US06049006
N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]benzamide
Thiosemicarbazide (1.33 g, 14.6 mmol) was added to a solution of N-(2-oxo-2-phenyl-ethyl)-benzamide (3.5 g, 14.6 mmol), prepared in the previous step, in 53 ml of methanol plus 4 ml of 1N HCl plus 3.75 ml of water and the reaction stirred at room temperature overnight. The solvent was removed under reduced pressure to give 5.0 g of an off-white solid. Recrystallization of this solid from isopropyl alcohol gave the title compound (3.64 g, 80%) as a white solid, mp 171-172° C.

reactant | Thiosemicarbazide | 14.6 mmol, 1.33 g | NNC(=S)N | CH5N3S
reactant | N-(2-oxo-2-phenyl-ethyl)-benzamide | 14.6 mmol, 3.5 g | O=C(CNC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C15H13NO2
reactant | HCl | 1N, 4 ml | Cl | ClH
reactant | water | 3.75 ml | O | H2O
solvent | methanol | 53 ml | CO | CH4O
product | N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]benzamide | 5.0 g | NC(=S)NN=C(CNC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H16N4OS
